US04113940
A solution of 2-methyl-7-[N-(1-cyclopropylethoxy)carbonyl-2-phenylglycyl]amino-3-cephem-4-carboxylic acid (2.0 g) in formic acid (10 ml) was stirred for 2.5 hours at room temperature. After the reaction was completed, ether (30 ml) was added to the reaction mixture, and the supernatent was removed three times by decantation. Colorless powder was collected by filtration and washed with ether. Thus obtained powder was suspended in a mixture of acetonitrile (15 ml) and water (1 ml), and the suspension was stirred for 1.5 hours under ice-cooling. The precipitate was collected by filtration and dried to give 2-methyl-7-(2-phenylglycyl)amino-3-cephem-4-carboxylic acid (1.13 g), mp 168.5° to 171° C.

reactant | 2-methyl-7-[N-(1-cyclopropylethoxy)carbonyl-2-phenylglycyl]amino-3-cephem-4-carboxylic acid | 2.0 g | CC1S[C@H]2N(C(=C1)C(=O)O)C(C2NC(C(NC(=O)OC(C)C2CC2)C2=CC=CC=C2)=O)=O | C22H25N3O6S
reactant | ether | 30 ml | CCOCC | C4H10O
solvent | formic acid | 10 ml | C(=O)O | CH2O2
product | 2-methyl-7-(2-phenylglycyl)amino-3-cephem-4-carboxylic acid | 1.13 g | CC1S[C@H]2N(C(=C1)C(=O)O)C(C2NC(C(N)C2=CC=CC=C2)=O)=O | C16H17N3O4S
